US07858643B2
To a solution of 2-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-2-methyl-propionic acid (1.00 g, 2.20 mmol) in DMF (5.5 mL) were added HOBT (300 mg, 2.20 mmol), EDC (633 mg, 3.30 mmol), and N,N-dimethyl-propane-1,3-diamine (225 mg, 2.20 mmol). The reaction was stirred overnight at room temperature. The reaction was then purified by reversed phase C-18 prep HPLC eluting with acetonitrile/water with 0.1% acetic acid to afford 2-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-N-(3-dimethylamino-propyl)-isobutyramide (170 mg, 14% yield).

reactant | 2-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-2-methyl-propionic acid | 2.20 mmol, 1.00 g | NC1=C(C=C(C=N1)C=1C=NN(C1)C(C(=O)O)(C)C)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C20H19Cl2FN4O3
reactant | HOBT | 2.20 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.30 mmol, 633 mg
reactant | N,N-dimethyl-propane-1,3-diamine | 2.20 mmol, 225 mg | CN(CCCN)C | C5H14N2
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-{6-amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-N-(3-dimethylamino-propyl)-isobutyramide | 170 mg, 14% yield | NC1=C(C=C(C=N1)C=1C=NN(C1)C(C(=O)NCCCN(C)C)(C)C)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C25H31Cl2FN6O2
